US09403835B2
Step 2: 2-(2-hydroxymethyl-phenoxy)-propan-1-ol
Lithium borohydride (458 mg; 21 mmol; 3 eq.) was added to a solution of 2-(2-formyl-phenoxy)-propionic acid methyl ester (1.46 mg; 7 mmol; 1 eq.) in 1,4-dioxane (20 mL) and the resulting mixture was stirred at room temperature for 2 hours. After dilution with EA, the solution was washed with water, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (960 mg, 75%) as colourless oil. 1H NMR (DMSO-d6) δ 7.37-7.32 (m, 1H), 7.21-7.14 (m, 1H), 6.67 (d, J=8.3 Hz, 1H), 6.90 (dt, J=1.0, 7.4 Hz, 1H), 4.95 (t, J=5.7 Hz, 1H), 4.86 (t, J=5.7 Hz, 1H), 4.59-4.33 (m, 3H), 3.56-3.40 (m, 2H), 1.20 (d, J=6.2 Hz, 3H).

reactant | Lithium borohydride | 21 mmol, 458 mg, 3 eq. | [BH4-].[Li+]
reactant | 2-(2-formyl-phenoxy)-propionic acid methyl ester | 7 mmol, 1.46 mg, 1 eq. | COC(C(C)OC1=C(C=CC=C1)C=O)=O | C11H12O4
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-(2-hydroxymethyl-phenoxy)-propan-1-ol | 960 mg, 75% | OCC1=C(OC(CO)C)C=CC=C1 | C10H14O3
